US07285558B2
5-{2-[(6-chloroquinolin-4-yl)methyl]-5-methyl-4,6-dioxo-7-propyl-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-1H-pyrrole-3-sulfonamide
Following the method of Example 180, this compound was made by preparation of 6-chloroquinoline-4-carbaldehyde (1-methyl-2,6-dioxo-3-propyl-1,2,3,6-tetrahydropyrimidin-4-yl)hydrazone, condensation with N-(tert-butyl)-5-formyl-1-methyl-1H-pyrrole-3-sulfonamide and treatment with TFA.

reactant | 6-chloroquinoline-4-carbaldehyde (1-methyl-2,6-dioxo-3-propyl-1,2,3,6-tetrahydropyrimidin-4-yl)hydrazone | CN1C(N(C(=CC1=O)NN=CC1=CC=NC2=CC=C(C=C12)Cl)CCC)=O | C18H18ClN5O2
reactant | N-(tert-butyl)-5-formyl-1-methyl-1H-pyrrole-3-sulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CN(C(=C1)C=O)C | C10H16N2O3S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-{2-[(6-chloroquinolin-4-yl)methyl]-5-methyl-4,6-dioxo-7-propyl-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-1H-pyrrole-3-sulfonamide | ClC=1C=C2C(=CC=NC2=CC1)CN1N=C2N(C(N(C(C2=C1C1=CC(=CN1C)S(=O)(=O)N)=O)C)=O)CCC | C24H24ClN7O4S
